US09399646B2
Step 2: (E)-Ethyl 3-(4-((E)-1-(1H-benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylate
Hydrochloric acid (2.7 mL, 2M in diethyl ether) was added to a solution of (E)-ethyl 3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d][1,2,3]triazol-5-yl)but-1-en-1-yl)phenyl)acrylate (0.28 g, 0.55 mmol) in ethyl alcohol (27 mL) at room temperature, and the resulting mixture was heated at 70° C. for 2 h. The reaction was monitored by TLC. Upon completion, the mixture was cooled down to room temperature and concentrated to give a pale yellow solid. This solid was dissolved in ethyl acetate (100 mL), washed with saturated NaHCO3 (50 mL), water (100 mL) and brine (50 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated to give the crude product. This crude material was purified on a silica gel column eluted with 0-50% ethyl acetate in hexanes affording the title compound. LCMS: 424 (M+H)+.

reactant | Hydrochloric acid | 2M, 2.7 mL | Cl | ClH
reactant | (E)-ethyl 3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d][1,2,3]triazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 0.55 mmol, 0.28 g | C1(=CC=CC=C1)/C(=C(/C1=CC2=C(N(N=N2)C2OCCCC2)C=C1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C32H33N3O3
solvent | ethyl alcohol | 27 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (E)-Ethyl 3-(4-((E)-1-(1H-benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylate | N1N=NC2=C1C=CC(=C2)\C(=C(/CC)\C2=CC=CC=C2)\C2=CC=C(C=C2)/C=C/C(=O)OCC | C27H25N3O2
